US07399759B2
tert-Butyl 3-(4-pyridyl)propionate
tert-Butyl (E)-3-(4-Pyridyl)acrylate (0.88 g, 4.3 mmol) was dissolved in ethanol (10 ml), and 10% palladium-carbon (0.17 g) and a solution of ammonium formate (1.4 g, 21.4 mmol) in water (2.5 ml) were added thereto. The reaction mixture was refluxed for 3 hrs. Palladium-carbon was filtered off. The reaction mixture was combined with water, concentrated under reduced pressure to the half amount and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel (20 g) column chromatography. The fractions eluted with hexane-ethyl acetate (3:1, v/v) were collected and concentrated to give the titled compound (0.58 g, 65%).

reactant | tert-Butyl (E)-3-(4-Pyridyl)acrylate | 4.3 mmol, 0.88 g | N1=CC=C(C=C1)/C=C/C(=O)OC(C)(C)C | C12H15NO2
reactant | ammonium formate | 21.4 mmol, 1.4 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2.5 ml | O | H2O
catalyst | palladium-carbon | 0.17 g | [C].[Pd]
product | tert-Butyl 3-(4-pyridyl)propionate | 0.58 g, 65% | N1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C12H17NO2
